US06313127B1
A solution of sodium dithionite (2.5 g) in water (10 ml) was added to a warmed solution of 1-(4-pyridyl)-4-(4-nitrophenyl)piperazine (0.551 g) in methanol (50 ml) and the mixture was allowed to reflux for 2 hours. The methanol was removed by evaporation and the resulting concentrated solution was basified with solid Na2SO4. The organic material was extracted into ethyl acetate, washed with water, brine, dried (Na2SO4) and evaporated to give 1-(4-pyridyl)-4-(4-aminophenyl)piperazine (0.4 g) as an oil. NMR: (CDCl3) 3.14(t,4H), 3.48(t, 4H), 6.68(m,4H), 6.85(d,2H), 8.31(bd,2H): MS: m z 255 (MH)−.

reactant | sodium dithionite | 2.5 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 1-(4-pyridyl)-4-(4-nitrophenyl)piperazine | 0.551 g | N1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C15H16N4O2
solvent | water | 10 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | 1-(4-pyridyl)-4-(4-aminophenyl)piperazine | 0.4 g | N1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N | C15H18N4
